US07521447B2
Step B: (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid-dicyclohexylamine complex:
To a solution of (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid (72.6 g, 331 mmol) in EtOH (500 mL) was added dropwise dicyclohexylamine (73 mL, 364 mmol). The mixture was stirred for 2 hours at room temperature and then concentrated under reduced pressure. The white solid was dried under high vacuum and then triturated with ether (1000 mL). The fine white powder was collected by filtration, washed with ether and dried under high vacuum (125.6 g, 95% yield).

reactant | (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid | 331 mmol, 72.6 g | C(C)(C)(C)OC(=O)[C@H](C(=O)O)CCO | C9H16O5
reactant | dicyclohexylamine | 364 mmol, 73 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | EtOH | 500 mL | CCO | C2H6O
product | (S)-2-(tert-butoxycarbonyl)-4-hydroxybutanoic acid dicyclohexylamine | 95% yield | C(C)(C)(C)OC(=O)[C@H](C(=O)O)CCO.C1(CCCCC1)NC1CCCCC1 | InChI=1S/C12H23N.C9H16O5/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-9(2,3)14-8(13)6(4-5-10)7(11)12/h11-13H,1-10H2;6,10H,4-5H2,1-3H3,(H,11,12)/t;6-/m.0/s1
